US07691879B2
6-methoxy-3-methyl-4-phenylisoquinolinium chloride
1-chloro-6-methoxy-3-methyl-4-phenylisoquinoline (0.55 g) in 25 mL EtOH was treated with 120 mg KOH and 30 mg Pd—C (10%). The reaction was shaken under an H2 atmosphere (50 psi) for 20 h. The reaction was filtered through celite and concentrated to dryness, then dissolved in isopropanol and treated with excess HCl. Crystallization from isopropanol/diethyl ether gave the titled compound.

reactant | 1-chloro-6-methoxy-3-methyl-4-phenylisoquinoline | 0.55 g | ClC1=NC(=C(C2=CC(=CC=C12)OC)C1=CC=CC=C1)C | C17H14ClNO
reactant | KOH | 120 mg | [OH-].[K+]
solvent | EtOH | 25 mL | CCO | C2H6O
catalyst | Pd—C | 30 mg | [Pd] | Pd
product | 6-methoxy-3-methyl-4-phenylisoquinolinium chloride | [Cl-].COC=1C=C2C(=C([NH+]=CC2=CC1)C)C1=CC=CC=C1 | InChI=1S/C17H15NO.ClH/c1-12-17(13-6-4-3-5-7-13)16-10-15(19-2)9-8-14(16)11-18-12;/h3-11H,1-2H3;1H
